US04973592
To a stirred and ice-cooled solution of cyclohexyl magnesium chloride (60 mmol) in dry ether (23.2 ml), 4-chlorobutyrophenone (5.5 g) in ether (17 ml) was added dropwise. The mixture was stirred at 0° C. for 2 hours, then an aqueous solution of sodium chloride was cautiously added. The organic phase was separated and dried. The solvent was removed and the residue was purified by column chromatography (hexane, ether 98:2), affording 5 g of 1-phenyl-1-cyclohexyl-4-chloro-1-butanol as an oil.

reactant | cyclohexyl magnesium chloride | 60 mmol | C1(CCCCC1)[Mg]Cl
reactant | 4-chlorobutyrophenone | 5.5 g | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | sodium chloride | [Cl-].[Na+]
solvent | ether | 23.2 ml | CCOCC | C4H10O
solvent | ether | 17 ml | CCOCC | C4H10O
product | 1-phenyl-1-cyclohexyl-4-chloro-1-butanol | 5 g | C1(=CC=CC=C1)C(CCCCl)(O)C1CCCCC1 | C16H23ClO
